US07528129B2
3g) (R)-1-carboxy-2-(7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 96 mg (4.0 mmol) LiOH in 5 mL water was added dropwise to a solution of 910 mg (1.8 mmol) (R)-1-methoxycarbonyl-2-(7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 12 mL THF and the reaction solution was stirred overnight at RT. The residue was combined with 1 mL 4 M HCl and evaporated to dryness i.vac.

reactant | LiOH | 4.0 mmol, 96 mg | [Li+].[OH-]
reactant | (R)-1-methoxycarbonyl-2-(7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 1.8 mmol, 910 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC=N3)C(=C1)C)C(=O)OC)C=CC=C2 | C27H31N5O5
reactant | HCl | 4 M, 1 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | (R)-1-carboxy-2-(7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC=N3)C(=C1)C)C(=O)O)C=CC=C2 | C26H29N5O5
